US06949542B2
8-Chloro-4-[3-(2-hydroxymethyl-pyridin-4-yl)-phenyl]-7-(isopropyl-methyl-amino)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[4-chloro-5-(isopropyl-methyl-amino)-2-(3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester (Example M280) (0.35 g, 0.54 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (162 mg, 67%).

reactant | (RS)-[4-chloro-5-(isopropyl-methyl-amino)-2-(3-oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionylamino)-phenyl]-carbamic acid tert-butyl ester | 0.54 mmol, 0.35 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)Cl)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)COC1OCCCC1)=O)=O)=O | C35H43ClN4O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-4-[3-(2-hydroxymethyl-pyridin-4-yl)-phenyl]-7-(isopropyl-methyl-amino)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)CO)=O)C1)N(C)C(C)C | C25H25ClN4O2
